US04042586
Sodium hydride (0.1 mole) is added to benzyl alcohol (0.1 mole) in 100 ml. dry benzene and the mixture is refluxed one to two hours. The cooled solution is treated with 0.1 mole of 2-amino-3-morpholino-5-bromopyrazine in 100 ml. of benzene and the resulting mixture refluxed for 20-60 hours whereupon it is cooled, washed with water, dried and evaporated to give 2-amino-3-morpholino-5-benzyloxypyrazine.

reactant | Sodium hydride | 0.1 mole | [H-].[Na+]
reactant | benzyl alcohol | 0.1 mole | C(C1=CC=CC=C1)O | C7H8O
reactant | 2-amino-3-morpholino-5-bromopyrazine | 0.1 mole | NC1=NC=C(N=C1N1CCOCC1)Br | C8H11BrN4O
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 2-amino-3-morpholino-5-benzyloxypyrazine | NC1=NC=C(N=C1N1CCOCC1)OCC1=CC=CC=C1 | C15H18N4O2
